Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Gastrointestinal Bleeding after discharge from Laparoscopic 
Right Colectomy ___
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Per Colorectal Surgery Admit Note:

HPI: Mr. ___ is a ___ year old male with history of DVT/PE
during admission for hip replacement ___ who was found to 
have
a 3cm friable cecal adenocarcinoma after presenting with anemia
___ (EGD at that time was normal). He underwent uncomplicated
laparoscopic right colectomy ___ by Dr. ___ was
discharged on coumadin and lovenox yesterday. He received only
one dose of lovenox yesterday prior to discharge, and did not
take his dose this morning.

This morning at 1am and 5am, he had two large bloody BMs and 
felt
weak, prompting him to present to the ED. Of note, his hct
post-operatively was 20.3, from 22.7 preoperatively. He received
2u pRBCs the next morning with appropriate hct rise to 28.8 
prior
to discharge. His hct is now down to 22.6. He remains
hemodynamically stable and has two large bore IVs in place.
 
Past Medical History:
PMH: 
T2DM  
Afib s/p DCCV in ___  
HTN  
HLD  
BPH  
Radiation exposure in ___ 

PSH: L hip replacement ___ at ___,
right inguinal hernia repair
 
Social History:
___
Family History:
Father died in ___, mother died of old age at age ___. No known 
history of colon cancer.
 
Physical Exam:
At Discharge:

General: Patient appears well, ambulating without difficulty, 
tolerating regular diet, no pain, no bloody bowel movements.
VSS
Neuro: A&oX3
Cardio/Pulm: RRR, no shortness of breath
Abd: Lap sights intact without sign of infection, abdomen soft 
and nondistended
___: no significant lower extremity edema
 
Pertinent Results:
___ 06:49AM BLOOD Hct-27.6*
___ 07:39AM BLOOD WBC-6.0 RBC-3.21* Hgb-9.0* Hct-26.7* 
MCV-83 MCH-27.9 MCHC-33.6 RDW-17.0* Plt ___
___ 10:55AM BLOOD Hct-25.6*
___ 06:10AM BLOOD WBC-7.4 RBC-3.01* Hgb-8.5* Hct-24.9* 
MCV-83 MCH-28.3 MCHC-34.2 RDW-17.0* Plt ___
___ 09:15PM BLOOD WBC-7.3 RBC-3.11* Hgb-8.7* Hct-25.4* 
MCV-82 MCH-27.8 MCHC-34.0 RDW-16.9* Plt ___
___ 02:52PM BLOOD WBC-7.9 RBC-2.68* Hgb-7.3* Hct-22.0* 
MCV-83 MCH-27.4 MCHC-33.2 RDW-16.9* Plt ___
___ 07:35AM BLOOD WBC-7.1 RBC-2.64* Hgb-7.3* Hct-22.6* 
MCV-86 MCH-27.5 MCHC-32.2 RDW-17.2* Plt ___
___ 10:55AM BLOOD Glucose-131* UreaN-22* Creat-0.9 Na-137 
K-3.8 Cl-108 HCO3-24 AnGap-9
___ 06:10AM BLOOD Glucose-84 UreaN-25* Creat-1.0 Na-138 
K-4.1 Cl-108 HCO3-24 AnGap-10
___ 07:35AM BLOOD Glucose-154* UreaN-28* Creat-1.4* Na-141 
K-3.6 Cl-110* HCO3-18* AnGap-17
___ 10:55AM BLOOD Calcium-8.3* Phos-1.8* Mg-1.7
___ 06:10AM BLOOD Calcium-8.3* Phos-2.4*# Mg-1.8
___ 07:50AM BLOOD Lactate-2.8*
 
Brief Hospital Course:
Mr ___ was readmitted after discharge following a right 
colectomy related to GI bleeding at the staple line caused by an 
medication error on our teams part. The patient was sent home on 
coumadin and prophylactic lovenox after very specific 
instructions on what the anticoagulation plane would be which 
was prophylactic lovenox only has he was no longer on warfarin 
and had been treated for a prior clotting event. We addressed 
this with our team. He recieved 3 units of blood in total and 
was monitored closely for continued bleeding. On ___ he had 
one bowel movement with old clot and no bright red blood. He was 
monitored closely. His diet was slowly advanced as his symptoms 
continued to improve. He was hemodynamically stable. There was 
no procedure to stop the bleeding, we waited and held 
anticoagulation and the bleeding subsided. On ___ he had 
two bowel movements that were old dark maroon blood. And on the 
day of discharge, he had a brown bowel movement and was stable 
and ready for discharge home on the appropriate anticoagulation 
plan. He was specifically told by this writer not to restart 
Warfarin at home. Dr. ___ explained to the patient in 
___ not to restart the warfarin. 
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Enoxaparin Sodium 40 mg SC Q24H 
Start: ___, First Dose: Next Routine Administration Time 
2. Aspirin 81 mg PO DAILY 
3. Finasteride 5 mg PO DAILY 
4. Metoprolol Succinate XL 6.25 mg PO DAILY 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. Acetaminophen 650 mg PO Q6H:PRN pain 
Warfaring-> restarted in error at the time of previous 
discharge.
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
do not take more than 3000mg of tylenol in 24 hours or drink 
alcohol while taking 
RX *acetaminophen 325 mg 2 tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*0
2. Finasteride 5 mg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Metoprolol Succinate XL 6.25 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. Enoxaparin Sodium 40 mg SC Q24H 
Start: ___, First Dose: First Routine Administration Time 
Please start on ___, take until ___ 
RX *enoxaparin 40 mg/0.4 mL 40 mg subcutaneous once a day Disp 
#*8 Syringe Refills:*0
7. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole [Protonix] 40 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Post-Operative Anastomotic Bleed after starting anticoagulation 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were readmitted after surgery for bleeding from your 
previous Right Colectomy. This was likely related to restarting 
your blood thinning medication to prevent blood clots. You were 
given blood when you were admitted and now your blood counts are 
stable. You are stable to return home. You should continue to 
monitor how you are feeling and for signs and symptoms of 
bleeding. Please call if you have any of the following symptoms: 
passing blood from your rectum or with bowel movements, 
dizziness, feeling faint, fast heart rate, weakness, bruising 
over your abdomen that has worsened, increased abdominal 
distension, increased abdominal pain. Please call if you are 
experiencing any concerning symptoms. You should restart the 
Lovenox on ___ and you will take this medication for 
a total of one month after surgery please call if there are any 
issues with the lovenox. 

You have ___ laparoscopic surgical incisions on your abdomen 
which are closed with internal sutures and a skin glue called 
Dermabond. These are healing well however it is important that 
you monitor these areas for signs and symptoms of infection 
including: increasing redness of the incision lines, 
white/green/yellow/malodorous drainage, increased pain at the 
incision, increased warmth of the skin at the incision, or 
swelling of the area. Please call the office if you develop any 
of these symptoms or a fever. You may go to the emergency room 
if your symptoms are severe.  
You may shower; pat the incisions dry with a towel, do not rub. 
The small incisions may be left open to the air. If closed with 
steri-strips (little white adhesive strips) instead of 
Dermabond, these will fall off over time, please do not remove 
them. Please no baths or swimming for 6 weeks after surgery 
unless told otherwise by your surgical team.

Please monitor your bowel function closely. Some loose stool and 
passing of small amounts of dark, old appearing blood are 
expected. However, if you notice that you are passing bright red 
blood with bowel movements or having loose stool without 
improvement please call the office or go to the emergency room 
if the symptoms are severe. If you are taking narcotic pain 
medications there is a risk that you will have some 
constipation. Please take an over the counter stool softener 
such as Colace, and if the symptoms do not improve call the 
office. If you have any of the following symptoms please call 
the office for advice or go to the emergency room if severe: 
increasing abdominal distension, increasing abdominal pain, 
nausea, vomiting, inability to tolerate food or liquids, 
prolonged loose stool, or extended constipation.  

You may take Tylenol as recommended for pain. Please do not take 
more than 3000mg of Tylenol daily. Do not drink alcohol while 
taking narcotic pain medication or Tylenol. Please do not drive 
a car while taking narcotic pain medication. Please do not take 
any ibuprofen or other antiinflammatory medications, this can 
contribute to bleeding. 

No heavy lifting greater than 6 lbs for until your first 
post-operative visit after surgery. Please no strenuous activity 
until this time unless instructed otherwise by Dr. ___ Dr. 
___.  
 
Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities.  
 
 

 
Followup Instructions:
___